US06225311B1
To a stirred solution of 5.15 mL (59.8 mmol) of 1,2-dibromoethane in 50 mL of DMF at room temperature was added over 45 min a solution of 10 g (50 mmol) of D-penicillamine methyl ester hydrochloride and 22.5 mL (150.45 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 100 mL of DMF. The reaction was stirred for 2.5 h, poured into a solution of saturated NaHCO3 and extracted with ethyl acetate. The organics were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to provide 8.24 g (87%) of methyl (3S)-2,2-dimethyl-3-thiomorpholine carboxylate as a pale yellow oil. Electrospray Mass Spec: 190.1 (M+H)+

reactant | 1,2-dibromoethane | 59.8 mmol, 5.15 mL | BrCCBr | C2H4Br2
reactant | D-penicillamine methyl ester hydrochloride | 50 mmol, 10 g | Cl.COC([C@H](N)C(C)(C)S)=O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 150.45 mmol, 22.5 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | methyl (3S)-2,2-dimethyl-3-thiomorpholine carboxylate | 8.24 g, 87% | CC1([C@@H](NCCS1)C(=O)OC)C | C8H15NO2S
